US04886803
N-(2-Pyridyl)-1-[2-(4-(3,4-dimethoxybenzoyl)-1-piperazinyl)ethyl]-5,6-dimethoxybenzimidazole-2-carboxamide
In an argon atmosphere, N-(2-pyridyl)-5,6-dimethoxybenzimidazole-2-carboxamide (0.85 g) was dissolved in DMSO (15 ml), and 60% sodium hydride (0.16 g) was added and stirred at room temperature for 1 hr. A solution (5 ml) of 2-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]ethyl chloride (1.25 g) in DMSO was added dropwise and allowed to react overnight at room temperature under agitation. After-treatment and purification in the same manner as described in Example 14 gave the title compound (0.72 g) as amorphous solid.

reactant | N-(2-pyridyl)-5,6-dimethoxybenzimidazole-2-carboxamide | 0.85 g | N1=C(C=CC=C1)NC(=O)C=1NC2=C(N1)C=C(C(=C2)OC)OC | C15H14N4O3
reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | 2-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]ethyl chloride | 5 ml, 1.25 g | COC=1C=C(C(=O)N2CCN(CC2)CCCl)C=CC1OC | C15H21ClN2O3
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | N-(2-Pyridyl)-1-[2-(4-(3,4-dimethoxybenzoyl)-1-piperazinyl)ethyl]-5,6-dimethoxybenzimidazole-2-carboxamide | 0.72 g | N1=C(C=CC=C1)NC(=O)C1=NC2=C(N1CCN1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O)C=C(C(=C2)OC)OC | C30H34N6O6
